US07572809B2
Similar procedure as described in example 384 was used, starting from 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid and 1-Methyl-piperazine to give [1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-(4-methyl-piperazin-1-yl)-methanone. LC-MS: m/e 409 (MH+).

reactant | 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)C(=O)O)NC1=NNC(=C1)C | C17H18N4O3
reactant | 1-Methyl-piperazine | CN1CCNCC1 | C5H12N2
product | [1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-(4-methyl-piperazin-1-yl)-methanone | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)C(=O)N1CCN(CC1)C)NC1=NNC(=C1)C | C22H28N6O2
